* Created by KLayout
*** My special header ***

* cell tr_1um_sanken
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_sanken P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $2 r0 *1 -700,420
X$2 VDD P7 \$219 \$165 VSS ASWL
* cell instance $8 r0 *1 -700,350
X$8 VDD P10 \$166 \$165 VSS ASWL
* cell instance $12 r0 *1 -288.5,420
X$12 VDD \$187 P9 \$165 VSS ASW
* cell instance $22 r0 *1 630,-270
X$22 VDD \$47 P4 \$68 VSS ASW
* cell instance $23 r0 *1 630,50
X$23 VDD P1 \$71 \$68 VSS ASWL
* cell instance $25 r0 *1 630,-90
X$25 \$73 \$71 VDD \$46 \$47 VSS fujii_inverter
* cell instance $38 r0 *1 630,-20
X$38 VDD P3 \$73 \$68 VSS ASWL
* cell instance $39 r0 *1 -700,560
X$39 VDD P3 \$273 \$165 VSS ASWL
* cell instance $40 r0 *1 -700,630
X$40 VDD P1 \$276 \$165 VSS ASWL
* cell instance $41 r0 *1 -700,490
X$41 VDD P5 \$220 \$165 VSS ASWL
* cell instance $48 r0 *1 -288.5,630
X$48 VDD \$289 P2 \$165 VSS ASW
* cell instance $49 r0 *1 630,-200
X$49 VDD \$46 P2 \$68 VSS ASW
* cell instance $50 r0 *1 -288.5,350
X$50 VDD \$140 P11 \$165 VSS ASW
* cell instance $51 r0 *1 -288.5,490
X$51 VDD \$186 P6 \$165 VSS ASW
* cell instance $52 r0 *1 -288.5,560
X$52 VDD \$241 P4 \$165 VSS ASW
* cell instance $74 r0 *1 -472.45,471.8
X$74 \$289 \$166 \$140 \$276 \$241 \$219 \$220 \$187 VDD \$186 \$273 VSS
+ ISHIKAI_INV
* cell instance $85 r0 *1 674.3,181.65
X$85 \$72 \$106 \$97 \$116 \$126 VDD VSS AND4_X1
* cell instance $86 r0 *1 608.3,296.85
X$86 \$72 \$102 \$119 \$149 \$126 VDD VSS AND4_X1
* cell instance $87 r0 *1 608.3,181.65
X$87 \$72 \$102 \$98 \$116 \$126 VDD VSS AND4_X1
* cell instance $88 r0 *1 641.3,181.65
X$88 \$72 \$102 \$99 \$116 \$115 VDD VSS AND4_X1
* cell instance $89 r0 *1 608.3,412.05
X$89 \$190 \$102 \$164 \$116 \$126 VDD VSS AND4_X1
* cell instance $90 r0 *1 608.3,527.25
X$90 \$190 \$102 \$165 \$149 \$126 VDD VSS AND4_X1
* cell instance $91 r0 *1 674.3,296.85
X$91 \$72 \$106 \$121 \$149 \$126 VDD VSS AND4_X1
* cell instance $92 r0 *1 707.3,296.85
X$92 \$72 \$106 \$122 \$149 \$115 VDD VSS AND4_X1
* cell instance $93 r0 *1 641.3,296.85
X$93 \$72 \$102 \$120 \$149 \$115 VDD VSS AND4_X1
* cell instance $94 r0 *1 674.3,412.05
X$94 \$190 \$106 \$161 \$116 \$126 VDD VSS AND4_X1
* cell instance $95 r0 *1 641.3,412.05
X$95 \$190 \$102 \$160 \$116 \$115 VDD VSS AND4_X1
* cell instance $96 r0 *1 707.3,412.05
X$96 \$190 \$106 \$162 \$116 \$115 VDD VSS AND4_X1
* cell instance $97 r0 *1 707.3,527.25
X$97 \$190 \$106 \$204 \$149 \$115 VDD VSS AND4_X1
* cell instance $98 r0 *1 641.3,527.25
X$98 \$190 \$102 \$68 \$149 \$115 VDD VSS AND4_X1
* cell instance $99 r0 *1 674.3,527.25
X$99 \$190 \$106 \$203 \$149 \$126 VDD VSS AND4_X1
* cell instance $100 r0 *1 707.3,181.65
X$100 \$72 \$106 \$95 \$116 \$115 VDD VSS AND4_X1
* cell instance $128 r0 *1 674.3,631.65
X$128 VDD P13 \$106 VSS INV_X1
* cell instance $129 r0 *1 641.3,631.65
X$129 VDD P14 \$116 VSS INV_X1
* cell instance $130 r0 *1 723.8,631.65
X$130 VDD \$115 \$126 VSS INV_X1
* cell instance $131 r0 *1 707.3,631.65
X$131 VDD P12 \$115 VSS INV_X1
* cell instance $132 r0 *1 690.8,631.65
X$132 VDD \$106 \$102 VSS INV_X1
* cell instance $133 r0 *1 608.3,631.65
X$133 VDD P15 \$72 VSS INV_X1
* cell instance $134 r0 *1 657.8,631.65
X$134 VDD \$116 \$149 VSS INV_X1
* cell instance $135 r0 *1 624.8,631.65
X$135 VDD \$72 \$190 VSS INV_X1
* device instance $1 r0 *1 680.5,741 F_RR
XR$1 VDD P14 VDD F_RR R=35.7142857143 L=100u W=2.8u A=280p P=205.6u m=1
* device instance $2 r0 *1 680.5,727.4 F_RR
XR$2 VDD P12 VDD F_RR R=35.7142857143 L=100u W=2.8u A=280p P=205.6u m=1
* device instance $3 r0 *1 680.5,734.2 F_RR
XR$3 VDD P13 VDD F_RR R=35.7142857143 L=100u W=2.8u A=280p P=205.6u m=1
* device instance $4 r0 *1 680.5,747.8 F_RR
XR$4 VDD P15 VDD F_RR R=35.7142857143 L=100u W=2.8u A=280p P=205.6u m=1
.ENDS tr_1um_sanken

* cell fujii_inverter
* pin B
* pin A
* pin VDD
* pin Q
* pin R
* pin VSS
.SUBCKT fujii_inverter B A VDD Q R VSS
* device instance $1 r0 *1 67.7,31.6 PMOS
XM$1 VDD B R VDD PMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $2 r0 *1 0,31.6 PMOS
XM$2 VDD A Q VDD PMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $3 r0 *1 79,46.7 PMOS
XM$3 VDD VDD VDD VDD PMOS L=1u W=80u AS=224p AD=224p PS=204.8u PD=204.8u
* device instance $11 r0 *1 67.7,-22.3 NMOS
XM$11 VSS B R VSS NMOS L=1u W=4u AS=11.2p AD=11.2p PS=13.6u PD=13.6u
* device instance $12 r0 *1 0,-22.3 NMOS
XM$12 VSS A Q VSS NMOS L=1u W=4u AS=11.2p AD=11.2p PS=13.6u PD=13.6u
* device instance $13 r0 *1 79,-13.7 NMOS
XM$13 VSS VSS VSS VSS NMOS L=1u W=32u AS=89.6p AD=89.6p PS=108.8u PD=108.8u
.ENDS fujii_inverter

* cell ASW
* pin VDD
* pin A
* pin B
* pin E
* pin VSS
.SUBCKT ASW VDD A B E VSS
* cell instance $3 r0 *1 -0.5,0
X$3 VDD \$1 \$4 VSS INV_X1
* cell instance $5 r0 *1 -11.5,0
X$5 VDD E \$1 VSS INV_X1
* device instance $1 r0 *1 18.4,9.2 NMOS
XM$1 A \$4 B VSS NMOS L=1u W=120u AS=190.4p AD=190.4p PS=175.6u PD=175.6u
* device instance $16 r0 *1 18.4,40.2 PMOS
XM$16 A \$1 B VDD PMOS L=1u W=300u AS=476p AD=476p PS=367.6u PD=367.6u
.ENDS ASW

* cell ISHIKAI_INV
* pin INV_OUT_1
* pin INV_IN_5
* pin INV_OUT_5
* pin INV_IN_1
* pin INV_OUT_2
* pin INV_IN_4
* pin INV_IN_3
* pin INV_OUT_4
* pin VDD
* pin INV_OUT_3
* pin INV_IN_2
* pin VSS
.SUBCKT ISHIKAI_INV INV_OUT_1 INV_IN_5 INV_OUT_5 INV_IN_1 INV_OUT_2 INV_IN_4
+ INV_IN_3 INV_OUT_4 VDD INV_OUT_3 INV_IN_2 VSS
* device instance $1 r0 *1 108.8,-97.2 PMOS
XM$1 VDD INV_IN_5 INV_OUT_5 VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $2 r0 *1 108.8,-119.2 NMOS
XM$2 VSS INV_IN_5 INV_OUT_5 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $3 r180 *1 120.2,-32.2 PMOS
XM$3 INV_OUT_4 INV_IN_4 VDD VDD PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u
+ PD=26u
* device instance $4 r0 *1 120.4,-70 NMOS
XM$4 VSS INV_IN_4 INV_OUT_4 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $5 r0 *1 -0.9,89.1 PMOS
XM$5 VDD INV_IN_1 INV_OUT_1 VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $6 r0 *1 -0.7,61 NMOS
XM$6 VSS INV_IN_1 INV_OUT_1 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $7 r0 *1 -72,39.4 PMOS
XM$7 VDD INV_IN_2 INV_OUT_2 VDD PMOS L=1u W=9u AS=25.2p AD=25.2p PS=23.6u
+ PD=23.6u
* device instance $8 r0 *1 -72.1,6.2 NMOS
XM$8 VSS INV_IN_2 INV_OUT_2 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $9 r0 *1 113.6,27.8 PMOS
XM$9 VDD INV_IN_3 INV_OUT_3 VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $10 r0 *1 113.6,2.2 NMOS
XM$10 VSS INV_IN_3 INV_OUT_3 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
.ENDS ISHIKAI_INV

* cell AND4_X1
* pin A
* pin C
* pin Y
* pin B
* pin D
* pin vdd
* pin gnd
.SUBCKT AND4_X1 A C Y B D vdd gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$2 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$2 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd C \$2 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $4 r0 *1 18.1,44.8 PMOS
XM$4 \$2 D vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $5 r0 *1 22.1,44.8 PMOS
XM$5 vdd \$2 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $6 r0 *1 6.1,6.8 NMOS
XM$6 \$2 A \$4 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $7 r0 *1 10.1,6.8 NMOS
XM$7 \$4 B \$5 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $8 r0 *1 14.1,6.8 NMOS
XM$8 \$5 C \$7 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $9 r0 *1 18.1,6.8 NMOS
XM$9 \$7 D gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $10 r0 *1 22.1,6.8 NMOS
XM$10 gnd \$2 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS AND4_X1

* cell ASWL
* pin VDD
* pin A
* pin B
* pin E
* pin VSS
.SUBCKT ASWL VDD A B E VSS
* cell instance $3 r0 *1 -0.5,0
X$3 VDD \$1 \$5 VSS INV_X1
* cell instance $7 r0 *1 -11.5,0
X$7 VDD E \$1 VSS INV_X1
* device instance $1 r0 *1 18.4,9.2 NMOS
XM$1 A \$5 B VSS NMOS L=1u W=120u AS=190.4p AD=180p PS=175.6u PD=165u
* device instance $16 r0 *1 78.4,9.2 NMOS
XM$16 B \$1 VSS VSS NMOS L=1u W=8u AS=12p AD=22.4p PS=11u PD=21.6u
* device instance $17 r0 *1 18.4,40.2 PMOS
XM$17 A \$1 B VDD PMOS L=1u W=300u AS=476p AD=476p PS=367.6u PD=367.6u
.ENDS ASWL

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 6.1,6.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* device instance $1 r270 *1 -130,65.5 PMOS
XM$1 VSS PAD|VDD PAD|VDD PAD|VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VDD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VSS VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r270 *1 130,65.5 NMOSE
XM$11 VDD PAD|VSS PAD|VSS PAD|VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_ANA
